US08440861B2
Intermediate 1: Preparation of (2R)-2-[(tert-butoxycarbonyl)amino]-3-hydroxypropanoic acid
To a cold solution (5° C.) of 74.4 g (1.86 mol) of sodium hydroxide in 1800 mL of water was added 95.1 g (0.90 mol) of D-serine. Then, a solution of 274.5 g (1.26 mol) of di-tert-butyldicarbonate (BOC2O) in 840 mL of 1,4-dioxane was added dropwise maintaining the temperature below 10° C. The reaction was stirred during 1 hour at 10° C. and for 2 hours at room temperature. The pH was adjusted to 10 with 50% sodium hydroxide (19.0 mL) and the reaction mixture was stirred at room temperature for 15 hours. Half of the reaction volume was evaporated under vacuum and after cooling the residue to 5° C. the pH was adjusted to 2-3 using 1N NaHSO4. The mixture was extracted with ethyl acetate (5×1000 mL) and the combined organic phase was dried over sodium sulphate and concentrated under vacuum. The resulting oil was dissolved in methyl tert-butyl ether (200 mL), petroleum oil (800 mL) was added and the mixture was stirred for 1 hour. The solid was collected by filtration and dried yielding 158.3 g of the title compound as a white solid (Yield 85%).

reactant | sodium hydroxide | 1.86 mol, 74.4 g | [OH-].[Na+]
reactant | D-serine | 0.90 mol, 95.1 g | N[C@H](CO)C(=O)O | C3H7NO3
reactant | di-tert-butyldicarbonate | 1.26 mol, 274.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 19.0 mL | [OH-].[Na+]
solvent | water | 1800 mL | O | H2O
solvent | 1,4-dioxane | 840 mL | O1CCOCC1 | C4H8O2
product | (2R)-2-[(tert-butoxycarbonyl)amino]-3-hydroxypropanoic acid | 158.3 g, Yield 85% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CO | C8H15NO5
